Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
sunflower seed
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is an ___ F with history of HTN, HL, AAA s/p repair in ___, 
presenting with syncope.

History obtained via daughter who is at bedside.  Per pt's 
daughter, she had been in her usual state of health until 
yesterday when she started to c/o sore throat and some chills.  
Went to bed feeling ok, but this AM daughter heard her fall in 
the bathroom.  Pt unconscious for several minutes and woke up 
with some cold compresses.  Pt and daughter have recently 
traveled to resort in ___ but no other obvious sick 
contacts.  Both got flu shot this year.  In addition to chills, 
pt also c/o nausea.  She otherwise denies vomiting, abdominal 
pain, dysuria, increased frequency cough, SOB, or other 
localizing symptoms.

In the ED, Temp: 98.6 HR: 74 BP: 107/45 Resp: 16 O(2)Sat: 97 on 
RA
Labs notable for WBC: 6.7.  Rest of labs essentially wnl.
Flu swab obtained and was positive for Flu A
UA appeared dirty with leuks and 45 WBCs
CT head was obtained and was negative for acute intracranial 
process
CXR negative
She was also found to be significantly orthostatic with systolic 
dropping to 88 on standing and pt became orthostatic.
Pt received 3L NS and Tamiflu and admitted for further 
management of Orthostasis and flu.

 
Past Medical History:
HTN
dyslipdemia
AAA s/p repair in ___

 
Social History:
___
Family History:
unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: Temp: 101.7, HR: 80, BP: 130/58, O2: 94% on RA
GENERAL: ill-appearing woman, laying in bed in NAD
HEENT: no scleral icterus, no conjuntival injection, MMM
CV: RRR, no m/r/g
RESP: CTA b/l, no respiratory distress
GI: soft, NT/ND, +BS
GU: no foley
EXT: wwp, no peripheral edema
NEURO: AOx3, moving all extremities, CN's grossly intact
PSYCH: normal mood and affect

DISCHARGE PHYSICAL EXAM:
=====================
afebrile  154/70  HR 65  RR 18  94-96% on RA
General:  in NAD, appears stated age.
HEENT:  OP moist, face symmetric.
Resp CTA B, no rales, wheezes
CV RRR without murmurs
GI soft, NT, ND, NABS
MS:  no edema
Neuro:  alert/oriented X3, answers all questions, sits up on 
own.

 
Pertinent Results:
ADMISSION LABS:
___ 09:15AM BLOOD WBC-6.7 RBC-3.91 Hgb-12.9 Hct-38.9 
MCV-100* MCH-33.0* MCHC-33.2 RDW-12.8 RDWSD-46.6* Plt ___
___ 09:15AM BLOOD Neuts-82.7* Lymphs-7.5* Monos-9.0 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-5.50 AbsLymp-0.50* 
AbsMono-0.60 AbsEos-0.02* AbsBaso-0.01
___ 09:15AM BLOOD Glucose-98 UreaN-9 Creat-0.9 Na-135 K-4.3 
Cl-100 HCO3-23 AnGap-16

___ 09:45AM OTHER BODY FLUID FluAPCR-POSITIVE:N 
FluBPCR-NEGATIVE

IMAGING:
=======
CT head ___:
1.  Study is mildly degraded by motion. 
2.  No acute intracranial abnormality. 
3. No evidence acute intracranial hemorrhage or fracture. 
4.  Please note MRI of the brain is more sensitive for the 
detection of acute 
infarct. 
5.  Paranasal sinus disease as described. 

CXR ___:
No acute cardiopulmonary process.

MICRO:
=====
___ Urine culture:       MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 

 
Brief Hospital Course:
___ F with history of HTN, HL, AAA s/p repair in ___ 
presenting with syncope, likely orthostatic hypotension in s/o 
flu.

# Sepsis/Flu A positive-- Pt presented with fevers, feeling 
generally unwell, and nausea, found to have positive flu swab in 
the ED.  Pt otherwise denies focal symptoms but did also have 
positive UA on admission as well.   She was started on tamiflu 
x5 days and ceftriaxone until urine cultures came back negative. 
 Fevers resolved by HD2 and pt reported feeling much better 
overall.

# Syncope/Orthostastic Hypotension-- Pt presented with syncope 
prior to admission, was found to be severely orthostatic in the 
ED.  Orthostasis likely ___ vasodiliation in s/o sepsis with 
some possible component of volume depletion.  S/p 3L bolus in ED 
with improvement in orthostasis.  She was ambulating without 
lightheadedness on HD2 and was seen by ___ who cleared her to go 
home with a rolling walker until her acute illness resolves.

# HTN-- Restarted home metoprolol in hospital and 
enalapril/amlodipine at ___ due to improved blood pressure at 
discharge.

# HL-- continued simvastatin

Transitional issues:

PCP follow up this week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 
2. Simvastatin 20 mg PO QPM 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. amlodipine-benazepril ___ mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope ___ orthostatic hypotension
Influenza A
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You came in after passing out.  We think that this was because 
your blood pressure was low.  This is likely related to having 
the flu.  We treated you with IV fluids and Tamiflu and these 
issues improved.

Please return if you have worsening lightheadedness, dizziness, 
palpitations, nausea, vomiting, or if you have any other 
concerns.  Please also try to stay off your feet and drink 
plenty of fluids.  

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___